US09233920B2
Potassium cyanide (0.0377 g, 0.578 mmol), cesium chloride (0.0086 g, 0.051 mmol) and acetone cyanohydrin (0.142 ml, 1.55 mmol) were added to a solution of 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (0.250 g, 0.512 mmol) in toluene (5.0 ml). To this vigorously stirred suspension was added antracen-9-yl-methyl quininium chloride (0.071 g, 0.129 mmol). The reaction mixture was stirred at 90° C. for 18 hours. At this time water was added and the reaction mixture was extracted with dichloromethane (3×). The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (0.197 g, 79%) as a white foam. Chiral HPLC analysis (Chiralpack IB, Heptane:2-propanol=90:10, 1 ml/min, retention time 8.18 minutes (major enantiomer, minor enantiomer not observed), indicated that the reaction proceeded with >99% enantioselectivity.

reactant | Potassium cyanide | 0.578 mmol, 0.0377 g | [C-]#N.[K+]
reactant | cesium chloride | 0.051 mmol, 0.0086 g | [Cl-].[Cs+]
reactant | acetone cyanohydrin | 1.55 mmol, 0.142 ml | CC(C#N)(O)C | C4H7NO
reactant | 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 0.512 mmol, 0.250 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 0.197 g, 79% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@@](C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C#N)=O)C)=O | C23H20Cl2F3NO3
